US04451479
3-Amino-1-(m-chlorophenyl)-5-phenyl-2-pyrazoline
A 0.6 g. amount of sodium metal is dissolved in 100 ml. of absolute ethanol, then 14.76 g. of m-chlorophenylhydrazine is added followed in 5 minutes by 12.92 g. of cinnamonitrile. The reaction mixture is refluxed for 6 hours, then cooled in an ice-bath. The precipitate formed is collected by filtration, then is dissolved in dichloromethane. This solution is passed through a short column of a hydrous magnesium silicate. The effluent is heated to reflux on a steam bath and hexane is added until a precipitate occurs. The product is collected, then is recrystallized from dichloromethane-hexane to give 7.55 g. of the product of the Example as salmon colored needles, m.p. 164°-165° C.

reactant | sodium | [Na] | Na
reactant | m-chlorophenylhydrazine | ClC=1C=C(C=CC1)NN | C6H7ClN2
reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-(m-chlorophenyl)-5-phenyl-2-pyrazoline | NC1=NN(C(C1)C1=CC=CC=C1)C1=CC(=CC=C1)Cl | C15H14ClN3
